US07485632B2
To a solution of 1.10 g of (4-amino-cyclohexyl)-carbamic acid tert-butyl ester in 25 ml of EtAc 0.58 ml of ethoxycarbonyl-isothiocyanat are added and the mixture obtained is stirred at RT. The precipitate formed is filtered and washed with diethylether. [trans-4-(3-Ethoxycarbonyl-thioureido)cyclohexyl]carbamic acid tert-butyl ester is obtained.

reactant | (4-amino-cyclohexyl)-carbamic acid tert-butyl ester | 1.10 g | C(C)(C)(C)OC(NC1CCC(CC1)N)=O | C11H22N2O2
reactant | ethoxycarbonyl-isothiocyanat | 0.58 ml | C(C)OC(=O)N=C=S | C4H5NO2S
product | [trans-4-(3-Ethoxycarbonyl-thioureido)cyclohexyl]carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@@H]1CC[C@H](CC1)NC(=S)NC(=O)OCC)=O | C15H27N3O4S
